* 
* ******************************************************************************
* *                                                                            *
* *                   Copyright (C) 2004-2010, Nangate Inc.                    *
* *                           All rights reserved.                             *
* *                                                                            *
* * Nangate and the Nangate logo are trademarks of Nangate Inc.                *
* *                                                                            *
* * All trademarks, logos, software marks, and trade names (collectively the   *
* * "Marks") in this program are proprietary to Nangate or other respective    *
* * owners that have granted Nangate the right and license to use such Marks.  *
* * You are not permitted to use the Marks without the prior written consent   *
* * of Nangate or such third party that may own the Marks.                     *
* *                                                                            *
* * This file has been provided pursuant to a License Agreement containing     *
* * restrictions on its use. This file contains valuable trade secrets and     *
* * proprietary information of Nangate Inc., and is protected by U.S. and      *
* * international laws and/or treaties.                                        *
* *                                                                            *
* * The copyright notice(s) in this file does not indicate actual or intended  *
* * publication of this file.                                                  *
* *                                                                            *
* *         buildcell, v2010.08-HR32-SP3-2010-08-05 - build 1009061800         *
* *                                                                            *
* ******************************************************************************
* 
* 
* Running on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr).
* Local time is now Fri, 3 Dec 2010, 19:30:15.
* Main process id is 28033.
*
********************************************************************************
*                                                                              *
* Cellname:   ANTENNA_X1.                                                      *
*                                                                              *
* Technology: NCSU FreePDK 45nm.                                               *
* Format:     Cdl.                                                             *
*                                                                              *
* Written on brazil06.nangate.com.br for user Giancarlo Franciscatto (gfr)     *
* at 19:30:15 on Fri, 3 Dec 2010.                                              *
*                                                                              *
********************************************************************************
.SUBCKT ANTENNA_X1 A VDD VSS 
*.PININFO A:I VDD:P VSS:G 
c_1 A 0 2.37011e-17
C_x_PM_ANTENNA_X1%VDD_c0 x_PM_ANTENNA_X1%VDD_27 VSS 1.91438e-17
C_x_PM_ANTENNA_X1%VDD_c1 x_PM_ANTENNA_X1%VDD_24 VSS 1.04803e-17
C_x_PM_ANTENNA_X1%VDD_c2 x_PM_ANTENNA_X1%VDD_23 VSS 2.334e-16
C_x_PM_ANTENNA_X1%VDD_c3 x_PM_ANTENNA_X1%VDD_14 VSS 2.61461e-16
C_x_PM_ANTENNA_X1%VDD_c4 x_PM_ANTENNA_X1%VDD_11 VSS 1.92462e-17
C_x_PM_ANTENNA_X1%VDD_c5 x_PM_ANTENNA_X1%VDD_7 VSS 5.39393e-16
R_x_PM_ANTENNA_X1%VDD_r6 x_PM_ANTENNA_X1%VDD_25 x_PM_ANTENNA_X1%VDD_27 0.13879
R_x_PM_ANTENNA_X1%VDD_r7 x_PM_ANTENNA_X1%VDD_27 x_PM_ANTENNA_X1%VDD_24 0.625882
R_x_PM_ANTENNA_X1%VDD_r8 x_PM_ANTENNA_X1%VDD_25 x_PM_ANTENNA_X1%VDD_24 0.138595
R_x_PM_ANTENNA_X1%VDD_r9 x_PM_ANTENNA_X1%VDD_25 x_PM_ANTENNA_X1%VDD_23 0.138985
R_x_PM_ANTENNA_X1%VDD_r10 x_PM_ANTENNA_X1%VDD_25 x_PM_ANTENNA_X1%VDD_14 0.13879
R_x_PM_ANTENNA_X1%VDD_r11 x_PM_ANTENNA_X1%VDD_14 VDD 3.84471
R_x_PM_ANTENNA_X1%VDD_r12 x_PM_ANTENNA_X1%VDD_11 x_PM_ANTENNA_X1%VDD_25 0.140282
R_x_PM_ANTENNA_X1%VDD_r13 x_PM_ANTENNA_X1%VDD_23 x_PM_ANTENNA_X1%VDD_11 7.68941
R_x_PM_ANTENNA_X1%VDD_r14 x_PM_ANTENNA_X1%VDD_7 VDD 8.30412
C_x_PM_ANTENNA_X1%VSS_c0 x_PM_ANTENNA_X1%VSS_24 VSS 2.334e-16
C_x_PM_ANTENNA_X1%VSS_c1 x_PM_ANTENNA_X1%VSS_22 VSS 2.61461e-16
C_x_PM_ANTENNA_X1%VSS_c2 x_PM_ANTENNA_X1%VSS_13 VSS 1.04803e-17
C_x_PM_ANTENNA_X1%VSS_c3 x_PM_ANTENNA_X1%VSS_12 VSS 1.9637e-17
C_x_PM_ANTENNA_X1%VSS_c4 x_PM_ANTENNA_X1%VSS_9 VSS 5.39393e-16
C_x_PM_ANTENNA_X1%VSS_c5 x_PM_ANTENNA_X1%VSS_8 VSS 1.92462e-17
R_x_PM_ANTENNA_X1%VSS_r6 x_PM_ANTENNA_X1%VSS_22 x_PM_ANTENNA_X1%VSS_24 0.138985
R_x_PM_ANTENNA_X1%VSS_r7 x_PM_ANTENNA_X1%VSS_22 x_PM_ANTENNA_X1%VSS_13 0.138595
R_x_PM_ANTENNA_X1%VSS_r8 x_PM_ANTENNA_X1%VSS_13 VSS 0.312941
R_x_PM_ANTENNA_X1%VSS_r9 x_PM_ANTENNA_X1%VSS_22 x_PM_ANTENNA_X1%VSS_12 0.13879
R_x_PM_ANTENNA_X1%VSS_r10 x_PM_ANTENNA_X1%VSS_12 VSS 0.312941
R_x_PM_ANTENNA_X1%VSS_r11 x_PM_ANTENNA_X1%VSS_9 VSS 8.30412
R_x_PM_ANTENNA_X1%VSS_r12 x_PM_ANTENNA_X1%VSS_8 x_PM_ANTENNA_X1%VSS_22 0.140282
R_x_PM_ANTENNA_X1%VSS_r13 x_PM_ANTENNA_X1%VSS_24 x_PM_ANTENNA_X1%VSS_8 7.68941
.ENDS 

********************************************************************************
*
* END
*
********************************************************************************
